US08471005B2
Into a 1-Neck round-bottom flask, 5-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (6.00 g, 24.6 mmol), 4,4,5,5,4′,4′,5′,5′-Octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (12.5 g, 49.2 mmol), Potassium acetate (9.65 g, 98.3 mmol) and Bis(tricyclohexylphosphine)palladium (0) (1.15 g, 1.72 mmol) were added. The mixture was purged with argon. 1,4-Dioxane (200 mL, 2000 mmol) was added. The reaction was heated at 110° C. for 5 hours. The reaction was cooled to RT. The solid was filtered through celite and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with hexane and EtOAc as eluant (2 to 8% EtOAc). The collected fractions afforded a semi solid. The semisolid was triturated with cold hexane, filtered and washed with more cold hexane to afford 2-Methylsulfanyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrrolo[2,1-f][1,2,4]triazine as an off white solid (5.80, 81%).

reactant | 5-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 24.6 mmol, 6.00 g | BrC=1C=CN2N=C(N=CC21)SC | C7H6BrN3S
reactant | 4,4,5,5,4′,4′,5′,5′-Octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 49.2 mmol, 12.5 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | Potassium acetate | 98.3 mmol, 9.65 g | C(C)(=O)[O-].[K+]
reactant | 1,4-Dioxane | 2000 mmol, 200 mL | O1CCOCC1 | C4H8O2
catalyst | Bis(tricyclohexylphosphine)palladium (0) | 1.72 mmol, 1.15 g | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.[Pd]
product | 2-Methylsulfanyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrrolo[2,1-f][1,2,4]triazine | CSC1=NN2C(C=N1)=C(C=C2)B2OC(C(O2)(C)C)(C)C | C13H18BN3O2S
